US07645760B2
N-(5-chloro-2-{(E)-3-[(S)-4-(4-fluoro-benzyl)-2-hydroxymethyl-piperazin-1-yl]-3-oxo-propenyl}-phenyl)acetamide
(E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid (2.2 g, 9.36 mmol), EDCI (3.6 g, 18.7 mmol); HOBT (2.5 g, 18.7 mmol) and 2.1 g (9.36 mmol) [(S)-4-(4-Fluorobenzyl)-piperazin-2-yl]-methanol were dissolved in 200 ml THF and stirred for 20 hours at room temperature. This mixture was then extracted 3 times with water and once with saturated sodium chloride solution. The title compound was purified by chromatography (SiO2, ethyl acetate/MeOH/NH3conc. 90/10/1) and was isolated as a pale solid (1.6 g, 39%)

reactant | (E)-3-(2-Acetylamino-4-chloro-phenyl)-acrylic acid | 9.36 mmol, 2.2 g | C(C)(=O)NC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C11H10ClNO3
reactant | EDCI | 18.7 mmol, 3.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 18.7 mmol, 2.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [(S)-4-(4-Fluorobenzyl)-piperazin-2-yl]-methanol | 9.36 mmol, 2.1 g | FC1=CC=C(CN2C[C@H](NCC2)CO)C=C1 | C12H17FN2O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-(5-chloro-2-{(E)-3-[(S)-4-(4-fluoro-benzyl)-2-hydroxymethyl-piperazin-1-yl]-3-oxo-propenyl}-phenyl)acetamide | 1.6 g, 39% | ClC=1C=CC(=C(C1)NC(C)=O)\C=C\C(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)F)CO | C23H25ClFN3O3
